US06949542B2
8-Chloro-4-[3-(2-hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[4-chloro-5-methyl-2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert-butyl ester (Example M297) (0.45 g, 0.74 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (200 mg, 67%).

reactant | (RS)-[4-chloro-5-methyl-2-(3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert-butyl ester | 0.74 mmol, 0.45 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O)=O | C33H38ClN3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(2-hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC(=C2)C)CO)=O)C1)C | C23H20ClN3O2
